US05747517
Preparation of 5-[[4-[(4-acetyl-3-acetoxy-2-propylphenoxy)methyl]phenyl]methylene]-2-thioxo-4-thiazolidinone
Under a nitrogen atmosphere in a round bottom flask 4-[(4-acetyl-3-acetoxy-2-propylphenoxy)methyl]benzaldehyde (70 mg, 0.20 mmol) was dissolved in acetic acid (1 ml). To this solution was added sodium acetate (59 mg, 0.72 mmol) and then rhodanine (27.5 mg, 0.21 mmol). The reaction mixture was then heated to reflux and the progress of the reaction was monitored by thin layer chromatography.

reactant | 4-[(4-acetyl-3-acetoxy-2-propylphenoxy)methyl]benzaldehyde | 0.20 mmol, 70 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=O)C=C2)C=C1)CCC)OC(C)=O | C21H22O5
reactant | sodium acetate | 0.72 mmol, 59 mg | C(C)(=O)[O-].[Na+]
reactant | rhodanine | 0.21 mmol, 27.5 mg | S1C(=S)NC(=O)C1 | C3H3NOS2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 5-[[4-[(4-acetyl-3-acetoxy-2-propylphenoxy)methyl]phenyl]methylene]-2-thioxo-4-thiazolidinone | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C=C2C(NC(S2)=S)=O)C=C1)CCC)OC(C)=O | C24H23NO5S2
